Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I don't need to be here." 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
For further details of the history and presentation, please see 
___ including initial consultation note by Dr. ___ 
dated ___, initial consultation note by Dr. ___ 
dated ___, and resident admission note by Dr. ___ 
dated ___. Of note, discharge summary is also admission 
note.
.
Briefly, this is ___ year old married, employed, ___ 
speaking woman, no formal psychiatric history, no past medical 
history, no prior suicide attempts, who initially presented to 
___ complaining of back and neck pain; admitted to psychiatry 
due to concerns of depression and failure to thrive in the 
setting of the recent death of her mother.
.
On psychiatric review of systems, no history of mania or 
psychosis-- denied AVH, paranoia. Denied anxiety symptoms with 
excessive worry, ruminations, phobias, panic attacks. No other 
somatic complaints. Denied history of alcohol or drug abuse. 
.
Upon initial interview, patient was noted to be minimally 
responsive, appeared to have blunted affect with limited eye 
contact. Patient reported she came to the ED for evaluation of 
neck and back pain and did express feeling depressed for the 
past 2 months since her mother died. Reportedly stated she was 
not hopeful she will feel better and has had decreased appetite, 
difficulty sleeping due to pain. Reported feeling tired  during 
the day with difficulty functioning. Her son, who was present at 
bedside, reported for the past few days her granddaughter had 
been helping her with ADL's. 
.
ED Course: patient was in good behavioral control and did not 
require physical or chemical restraints. Admitted to Deaconess ___ 
due to concern for depression with FTT.
.
On my interview with Ms. ___, who was seen with a ___ 
Interpreter, she confirmed the history as noted above, stating 
she came to the hospital for worsening musculoskeletal pain. 
Stated she has experienced pain in her shoulders for years now, 
however, notes that since her mother died 2 months ago, she has 
had to be sitting in the home to greet friends, and this has 
worsened her chronic pain. Noted the pain is usually in her 
shoulders but states that it has been moving to her back and 
throughout her body-- notes that Tylenol relieves this pain.
.
Ms. ___ reported she has been "sad since my mother died but my 
mind is fine." reported she misses her mother, with whom she was 
quite close to and thinks of her frequently. However, denied her 
sadness was day in and day out, stating she takes care of her 
grandchildren ___ years, ___ years, ___ years, and ___ years), which 
distracts her. Denies anhedonia. Reported when her mother 
initially passed away, she did have some decrease in appetite 
but states she has been eating regularly now. Denies difficulty 
with sleep on my examination. Reported some decrease in energy, 
but patient and family note she works very hard and is quite 
busy. Denied difficulty concentrating. Adamantly denied suicidal 
ideation or thoughts of self harm. Patient stated she only 
wanted someone to talk to about her grief and did not want to be 
in the hospital. Of note, she planned on visiting her daughter, 
who lives in ___ on ___, and was concerned she would 
not have enough time to have her nails done and get her shopping 
completed. 
. 
With the patient's permission, ___ called the 
patient's niece, who verified that the family had no safety 
concerns. Notably, the family was very upset the patient had 
been admitted, stating they did not understand the process of a 
___ and that they did not feel she needed to be there.  

 
Past Medical History:
Past Psychiatric History: 
- Diagnoses: Denies 
- SA/SIB: denies/denies
- Hospitalizations: denies
- Psychiatrist/Therapist: denies/denies 
- Med Trials: Denies 
.
Past Medical History: see above 
Denies 
 
Social History:
___
Family History:
Family Psychiatric History: 
- Diagnoses: daughter reportedly with depression
- Suicides: daughter reportedly attempted suicide
- Addictions: Denies 
 
Physical Exam:
___ 1338 Temp: 98.3 PO BP: 131/73 HR: 75 O2 sat: 95% 
___ 1410 RR: 16 Dyspnea: 0 RASS: 0 Pain Score: ___ 

 EXAM:

General:
 -HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
 oropharynx clear, supple neck.  No scleral icterus.
 -Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
 murmurs/rubs/gallops. Distal pulses ___ throughout.
 -Pulmonary: No increased work of breathing.  Lungs clear to
 auscultation bilaterally.  No wheezes/rhonchi/rales.
 -Abdominal: Non-distended, bowel sounds normoactive.  No
 tenderness to palpation in all quadrants.  No guarding, no
 rebound tenderness.
 -Extremities: Warm and well-perfused.  No edema of the limbs.
 -Skin: ?Depigmentation lesions noted on hand, some
depigmentation on face
 -MSK: Pain with passive movement of arm. Point tenderness near
deltoid, as well as multiple spinal processes. ___ strength
throughout, though patient endorses pain with testing both upper
and lower body strength.

Neurological:
 -Cranial Nerves:
 ---I: Olfaction not tested.
 ---II: PERRL 3 to 2mm, both directly and consentually; brisk
 bilaterally.  VFF to confrontation.
 ---III, IV, VI: EOMI without nystagmus
 ---V: Facial sensation intact to light touch in all
distributions
 ---VII: No facial droop, facial musculature symmetric and ___
 strength in upper and lower distributions, bilaterally
 ---VIII: Hearing intact to finger rub bilaterally
 ---IX, X: Palate elevates symmetrically
 ---XI: ___ strength in trapezii and SCM bilaterally
 ---XII: Tongue protrudes in midline
 -Motor: Normal bulk and tone bilaterally. No abnormal 
movements,
 no tremor. Strength ___ throughout.
 -Sensory: No deficits to fine touch throughout
 -Coordination: Not tested
 -Gait: Good initiation.  Narrow-based, normal stride and arm
 swing.  

Cognition: 
 -Wakefulness/alertness: Awake and alert
 -Attention: Serial 3's from 30 without any error
 -Orientation: Oriented to person, time, place, situation
 -Executive function (go-no go, Luria, trails, FAS): Not tested
 -Memory: ___ registration, ___ recall after 5 ___
 grossly intact
 -Fund of knowledge: Consistent with education; intact to last 2
 presidents
 -Abstraction: Deferred given language barrier
 -Visuospatial: Not assessed
 -Language: ___ speaker, minimal ___

Mental Status:
 -Appearance: woman appearing stated age, fair grooming, wearing
 hospital gown, in no apparent distress
 -Behavior: Sitting in chair, appropriate eye contact, no
 psychomotor agitation or retardation
 -Attitude: Cooperative, engaged, friendly, mildly irritable
towards end of interview when repeating that she does not have a
psychiatric issue
 -___: "Sad"
 -Affect: ___, full range, appropriate to situation,
reactive (patient laughs and smiles when discussing her hobbies)
 -Speech: Normal rate, volume, and tone
 -Thought process: Linear, coherent, goal-oriented, no loose
 associations
 -Thought Content:
 ---Safety: Denies SI/HI
 ---Delusions: No evidence of paranoia, etc. 
 ---Obsessions/Compulsions: No evidence based on current
encounter
 ---Hallucinations: Denies AVH, not appearing to be attending to
 internal stimuli
 -Insight: Limited
 -Judgment: Fair

 
Pertinent Results:
-___ 03:42PM BLOOD WBC: 10.2* RBC: 3.90 Hgb: 10.2* Hct:
32.3* MCV: 83 MCH: 26.2 MCHC: 31.6* RDW: 12.8 RDWSD: 38.___* 
-___ 03:42PM BLOOD Glucose: 84 UreaN: 10 Creat: 0.6 Na: 139
K: 4.8 Cl: 101 HCO3: 22 AnGap: 16 
-___ 03:42PM BLOOD Calcium: 9.6 Phos: 3.9 Mg: 2.0 
-___ 03:42PM BLOOD CRP: 43.8* 
-___ 05:47PM URINE Blood: NEG Nitrite: NEG Protein: NEG
Glucose: NEG Ketone: NEG Bilirub: NEG Urobiln: NEG pH: 6.5 
Leuks:
TR*

___ 05:27PM   ALBUMIN-4.1 IRON-20*
___ 05:27PM   calTIBC-382 VIT B12-711 FOLATE-14 
FERRITIN-139 TRF-294
___ 05:27PM   RET AUT-0.9 ABS RET-0.___riefly, this is ___ year old married, employed, ___ 
speaking woman, no formal psychiatric history, no past medical 
history, no prior suicide attempts, who initially presented to 
___ complaining of back and neck pain; admitted to psychiatry 
due to concerns of depression and failure to thrive in the 
setting of the recent death of her mother.
.
History and presentation notable for some depressive symptoms in 
the setting of the loss of her mother, whom she was very close 
with apparent intermittent feelings of sadness without 
anhedonia, reports of poor sleep and disrupted appetite that the 
patient states have now improved, and some ongoing 
musculoskeletal pain. Of note, patient reports on her 
examination that the pain has been there for about ___ years, 
which collateral obtained by social work confirms. Patient 
reports her musculoskeletal pain has worsened over the past few 
months in the setting of decreased activity. Of note, patient 
adamantly denied suicidal ideation on my examination or thoughts 
of self harm. Denies feeling persistent depression and states 
she does not want to be in the hospital but would be interested 
in a referral to a counselor upon discharge. 
. 
Diagnostically, presentation is consistent with adjustment 
disorder with some features of depression vs. normal grief 
reaction vs. MDD. Of note, on my examination on admission, she 
was adequately groomed, calm, cooperative and pleasant, well 
nourished, with periods of tearfulness when discussing her 
deceased mother. ___ was "sad because I lost my mother" with 
affect that was dysthymic at times but appropriate. Thought 
process was notably linear, goal and future oriented, with 
patient stating she wanted to leave the hospital so she could 
get her shopping and nails done to see her daughter in 
___ on ___. 
. 
#. Legal/Safety: patient admitted to ___ on a ___, upon admission, she declined to sign a CV. Of note, patient 
maintained her safety during her hospitalization on 15 minute 
checks and did not require physical or chemical restraints. 
Given no safety concerns, confirmed by her niece, with whom she 
is close with, she was discharged prior to expiration of her 
___. 
.
#. Adjustment disorder: as noted above. Discussed the risks and 
benefits of referral to a psychiatrist, ongoing psychiatric 
hospitalization, and pros and cons of initiating an 
antidepressant. The patient declined referral to a psychiatrist, 
ongoing hospitalization, and initiation of medication and had 
the capacity to refuse these services. She was amenable to 
seeing a therapist, and given her limited insurance, patient was 
set up with a PCP appointment for referral within ___ 
___ for referral to an outpatient therapist. Of note, the 
discharge plan was discussed with her niece, who agreed with the 
above plan. 
.
#. Medical: chronic arm pain. 
- Unclear etiology with labs revealing slightly elevated 
inflammatory markers
- Patient will follow up with her outpatient PCP 

 

 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. Naproxen 500 mg PO Q12H:PRN Pain - Moderate 

 
Discharge Medications:
1.  Naproxen 500 mg PO Q12H:PRN Pain - Moderate  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adjustment disorder with depressive features 

 
Discharge Condition:
98.1   105/68   71   16    99%RA
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted. 
S: normal rate, volume, prosody, goal directed
M: 'I'm fine' 
A: slightly restricted at times, mostly euthymic, ___ 
congruent, appropriate
TC: denies SI/HI, AVH
TP: linear, logical, goal and future oriented
C: awake, alert, responds to questions appropriately
I/J: fair/fair  

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___